US06969716B2
Oxo[3-(2-oxopyrrolidin-1-yl)phenyl]acetaldehyde was reacted with 4-methoxybenzenecarboximidic hydrazide hydriodide salt (0.72 g, 2.46 mmol) using the method described in Example 1 to give 1-{3-[3-(4-methoxyphenyl)-[1,2,4]triazin-5-yl]phenyl}pyrrolidin-2-one as a yellow solid (0.47 g): δH (400 MHz, d6-DMSO) 2.09-2.17 (2H, m), 2.57 (2H, t, J 8.0 Hz), 3.88 (3H, s), 3.99 (2H, t, J 7.0 Hz), 7.16-7.21 (2H, m), 7.64 (1H, t, J 8.0 Hz), 7.98-8.01 (1H, m), 8.18 (1H, d, J 8.2 Hz), 8.51-8.55 (2H, m), 8.66 (1H, t, J 1.8 Hz), 9.95 (1H, s); m/z (ES+) 347.

reactant | Oxo[3-(2-oxopyrrolidin-1-yl)phenyl]acetaldehyde | O=C(C=O)C1=CC(=CC=C1)N1C(CCC1)=O | C12H11NO3
reactant | 4-methoxybenzenecarboximidic hydrazide hydriodide salt | 2.46 mmol, 0.72 g | I.COC1=CC=C(C=C1)C(=N)NN
product | 1-{3-[3-(4-methoxyphenyl)-[1,2,4]triazin-5-yl]phenyl}pyrrolidin-2-one | 0.47 g | COC1=CC=C(C=C1)C=1N=NC=C(N1)C=1C=C(C=CC1)N1C(CCC1)=O | C20H18N4O2
